US06262089B1
a) (R)-1-[3-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-cyclohexanecarbonyl]-pyrrolidine-2-carboxylic acid benzyl ester (mixture of 3 diastereomers)
Using General Procedure A with 5.6 g (23.2 mmol) D-Proline benzyl ester hydrochloride and 2.0 g (11.6 mmol) cyclohexane-1,3-dicarboxylic acid afforded, after flash chromatography (EtOAc), 4.4 g (70%) of the title compound as a colorless oil. MS m/e (%): 547 (M+H+, 100).

reactant | D-Proline benzyl ester hydrochloride | 23.2 mmol, 5.6 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | cyclohexane-1,3-dicarboxylic acid | 11.6 mmol, 2.0 g | C1(CC(CCC1)C(=O)O)C(=O)O | C8H12O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[3-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-cyclohexanecarbonyl]-pyrrolidine-2-carboxylic acid benzyl ester | 4.4 g, 70% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(=O)C1CC(CCC1)C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1 | C32H38N2O6
